US07977354B2
Inclusion of Compound Described in Example 2 in Hydroxypropyl-beta-cyclodextrin
40 mg (0.13 mmol) of compound described in example 2 and 1.46 g of hydroxypropyl-beta-cyclodextrin (DS 0.58-Mw 1386 g.·L−1) were dissolved in 15 mL of dichloromethane and 10 mL of methanol. The limpid mixture was evaporated under reduced pressure at room temperature giving 1.80 g of a pale yellow powder containing 2 wt % of product described in example 2 (mol/mol ratio for the complex “dihydro-compound/beta-cyclodextrine”: ⅛). The included molecule is now soluble (10 g·L−1) in a mixture of 9 wt % NaCl aqueous solution (80 Vol. %), dimethylsulfoxide (10 Vol. %) and Chremofor EL (10 Vol. %).

reactant | beta-cyclodextrine | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
reactant | NaCl | [Na+].[Cl-]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | Hydroxypropyl-beta-cyclodextrin | CC(COC[C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)O)O)O | C63H112O42
